US04260751
5.22 g of 5,6-dihydro-1,5-dioxo-1H-pyrazolo[1,2-a][1,2,4]benzotriazine-2-carboxylic acid, ethyl ester made as in Example 1. 2.76 K2CO3 and 50 mM CH3CH2I are dissolved in 100 ml dimethylformamide and stirred for 20 hours. The crystalline 6-ethyl-5,6-dihydro-1,5-dioxo-1H-pyrazolo[1,2-a][1,2,4]benzotriazine-2-carboxylic acid, ethyl ester is isolated after filtration and recrystallized from dimethylformamide/ethanol. The yield is 4.7 g of white crystals having a melting point of 235°-237° C.

reactant | 5,6-dihydro-1,5-dioxo-1H-pyrazolo[1,2-a][1,2,4]benzotriazine-2-carboxylic acid, ethyl ester | 5.22 g | O=C1C(=CN2N1C1=C(NC2=O)C=CC=C1)C(=O)OCC | C13H11N3O4
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | CH3CH2I | 50 mM | CCI | C2H5I
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 6-ethyl-5,6-dihydro-1,5-dioxo-1H-pyrazolo[1,2-a][1,2,4]benzotriazine-2-carboxylic acid, ethyl ester | C(C)N1C(N2N(C3=C1C=CC=C3)C(C(=C2)C(=O)OCC)=O)=O | C15H15N3O4
